US06747023B1
1-[(6-Chloroindol-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine
In tetrahydrofuran (4.0 ml), 1-[(1-phenylsulfonyl-6-chloroindol-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine (380 mg) was dissolved, followed by the addition of methanol (4.0 ml) and potassium hydroxide (34.3 mg) at room temperature. The resulting mixture was stirred for 2 hours. To the reaction mixture, a saturated aqueous solution (30 ml) of ammonium chloride was added to make it weakly acidic. Then, a saturated aqueous solution (40 ml) of sodium bicarbonate was added to make the resulting mixture to weakly alkaline. The resulting mixture was added with dichloromethane (30 ml). The organic layer thus separated was extracted further with dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure. The residue thus obtained was purified by preparative thin-layer chromatography on a silica gel (dichloromethane:acetone:methanol=20:2:1), followed by recrystallization from a mixed solvent of hexane and dichloromethane, whereby the title compound (157 mg, 53%) was obtained as a white solid.

reactant | 1-[(1-phenylsulfonyl-6-chloroindol-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine | 380 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=C(C=C12)Cl)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C30H25ClN4O5S2
reactant | potassium hydroxide | 34.3 mg | [OH-].[K+]
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | methanol | 4.0 ml | CO | CH4O
product | 1-[(6-Chloroindol-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine | ClC1=CC=C2C=C(NC2=C1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C24H21ClN4O3S
